US05807883
3.79 ml of 1N sodium hydroxide was added to 30 ml of an ethanol solution of 1.70 g of ethyl 3-[3-(2-formyl-1,2,3,4-tetrahydro-3-isoquinolinyl)carbonylamino-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionate. The mixture was stirred at room temperature for 4 hours. After removal of solvent, the residue was dissolved in water, washed with water with diethyl ether, made acidic with 10% hydrochloric acid and then extracted with ethyl acetate. The ethyl acetate layer was further extracted with a sodium hydrogen carbonate aqueous solution. The extract was adsorbed by a nonionic adsorption resin (trade name: HP-20, produced by Mitsubishi Kasei Corporation) and eluted with water and a water-methanol (1:1) mixed solution. The eluate was lyophilized to afford 1.24 g of sodium 3-[3-(2-formyl-1,2,3,4-tetrahydro-3-isoquinolinyl)carbonylamino-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionate as a pale yellow powder. IR (Nujol) (cm-1): 3680 to 2400 (br) , 1710, 1660, 1610, FAB-MS (m/z): 522 (MNa+), 500 (MH+, base).

reactant | sodium hydroxide | 1N, 3.79 ml | [OH-].[Na+]
reactant | ethyl 3-[3-(2-formyl-1,2,3,4-tetrahydro-3-isoquinolinyl)carbonylamino-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionate | 1.70 g | C(=O)N1CC2=CC=CC=C2CC1C(=O)NC1(C(N(C2=CC=CC=C12)CCCCC)=O)CCC(=O)OCC | C29H35N3O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | sodium 3-[3-(2-formyl-1,2,3,4-tetrahydro-3-isoquinolinyl)carbonylamino-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionate | 1.24 g | C(=O)N1CC2=CC=CC=C2CC1C(=O)NC1(C(N(C2=CC=CC=C12)CCCCC)=O)CCC(=O)[O-].[Na+] | InChI=1S/C27H31N3O5.Na/c1-2-3-8-15-30-22-12-7-6-11-21(22)27(26(30)35,14-13-24(32)33)28-25(34)23-16-19-9-4-5-10-20(19)17-29(23)18-31;/h4-7,9-12,18,23H,2-3,8,13-17H2,1H3,(H,28,34)(H,32,33);/q;+1/p-1
